US05021398
PREPARATION OF COPPER (II) METHACRYLATE)
The method of Kuchen et al. (Angew. Chem. Int. Ed. Engl.), Vol. 27, #12, pp. 1695-1697 (1988) was followed with minor variation. For example, 1.01 g (4.5×10-3 mole) of basic copper carbonate was taken in a 100 ml round bottom flask. A mixture of 50 ml of THF and 2.4 g (0.028 mole) of methacrylic acid was added to it. The system was sonicated for 8 hrs. 30 Milligrams of pyridine was added to get a deep blue solution. The solution can be used directly to prepare the master solution

reactant | copper carbonate | 4.5×10-3 mole, 1.01 g | C([O-])([O-])=O.[Cu+2]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | methacrylic acid | 0.028 mole, 2.4 g | C(C(=C)C)(=O)O | C4H6O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | COPPER (II) METHACRYLATE | C(C(=C)C)(=O)[O-].[Cu+2].C(C(=C)C)(=O)[O-] | InChI=1S/2C4H6O2.Cu/c2*1-3(2)4(5)6;/h2*1H2,2H3,(H,5,6);/q;;+2/p-2
